US07919504B2
(S)-Methyl 3-(4-(trifluoromethyl)phenyl)-1-trityl-2,5-dihydro-1H-pyrrole-2-carboxylate (0.22 g, 0.43 mmol) was stirred in MeOH (5.0 mL). Anhydrous HCl(g) was bubbled through the solution at 0° C. for 5 minutes. The mixture was stirred an additional 5 minutes at 0° C. and at room temperature for 10 minutes. The mixture was evaporated in vacuo. The residue was redissolved in MeOH (5.0 mL) and Pd/C (0.10 g, 0.05 mmol) was added. The resulting suspension was stirred under 1 atm H2 at room temperature overnight. The mixture was passed through a short path of Celite washing with MeOH (3×10 mL). The filtrate was evaporated in vacuo. The residue was dissolved in DCM/MeOH (10% with NH3) and adsorbed onto silica gel. The crude residue was purified by flash column chromatography (eluting with a gradient of pure DCM to 5% MeOH in DCM) to provide (2S,3S)-methyl 3-(4-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylate as a colorless oil (66 mg, 56%). LCMS (M+H) 274.2 calc. for C13H15F3NO2 274.1. 1H NMR (400 MHz, CDCl3): δ ppm 2.01-2.35 (m, 3H), 3.02-3.12 (m, 1H), 3.24 (s, 3H), 3.43-3.53 (m, 1H), 3.68 (q, J=8.22 Hz, 1H), 4.10 (d, J=8.61 Hz, 1H), 7.30 (d, J=8.02 Hz, 2H), 7.54 (d, J=8.02 Hz, 2H).

reactant | (S)-Methyl 3-(4-(trifluoromethyl)phenyl)-1-trityl-2,5-dihydro-1H-pyrrole-2-carboxylate | 0.43 mmol, 0.22 g | FC(C1=CC=C(C=C1)C=1[C@H](N(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC)(F)F | C32H26F3NO2
solvent | MeOH | 5.0 mL | CO | CH4O
catalyst | Pd/C | 0.05 mmol, 0.10 g | [Pd] | Pd
product | (2S,3S)-methyl 3-(4-(trifluoromethyl)phenyl)pyrrolidine-2-carboxylate | 66 mg, 56% | FC(C1=CC=C(C=C1)[C@H]1[C@H](NCC1)C(=O)OC)(F)F | C13H14F3NO2
